US04551279
Preparation of 2-acetyloxy-5-nitrobenzoic acid
A mixture of 5-nitrosalicyclic acid (5 g), acetic anhydride (13 ml) and sulfuric acid (0.3 ml) was heated at 55° C. for 10 minutes. After the solution was removed from the hot water bath and stirred at room temperature for 1 hour it was poured into water (200 ml). The mixture was stirred for 10 minutes and filtered. The solid was stirred with water (100 ml), filtered by suction and air dried to give the title compound, m.p. ca, 165°-168° C.

reactant | 5-nitrosalicyclic acid | 5 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
product | 2-acetyloxy-5-nitrobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H7NO6
